US04707463
Synthesis of 2-naphthyl cinnamate
In 70 ml of acetone was dissolved 6.4 g of 2-naphthol. A 25% queous sodium hydroxide solution was added to the solution. A solution of 8.1 g of cinnamoyl chloride in 10 ml of acetone was dropwise added to the mixture over 4 minutes while stirring. After the stirring was continued for 7 minutes, benzene and water were added to the system to effect liquid separation. After the organic phase was washed with an aqueous hydrogen sodium carbonate solution, the system was dried over anhydrous potassium carbonate and the solvent was distilled off. The residue was treated with n-hexane and benzene to give crystals of the product. The product was recrystallized from a solvent mixture of n-hexane and benzene to give 9.8 g of the product.

reactant | 2-naphthol | 6.4 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cinnamoyl chloride | 8.1 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-naphthyl cinnamate | 9.8 g | C(C=CC1=CC=CC=C1)(=O)OC1=CC2=CC=CC=C2C=C1 | C19H14O2
